US06388084B1
To a suspension of 4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester hydrochloride salt (216 mg, 0.53 mmol) and 2,6-dichlorobenzoyl chloride (120 mg, 0.57 mmol) in THF (6 mL) was added DIEA (210 μL, 1. 19 mmol) at room temperature. After 5 min, a clear solution was obtained which was stirred for 18 h. Then, the mixture was diluted with ethyl acetate (50 mL). The ethyl acetate solution was washed successively with 0.5 N HCl (50 mL), saturated NaHCO3 solution (50 mL) and brine solution (50 mL) and was dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration gave crude product, which was dissolved in ethyl acetate (˜3 mL) and hexanes (˜3-4 mL) was added and stored in the refrigerator. The solid was collected and washed with hexanes. After drying under high vacuum, 270 mg (93.5% yield) of N-[(2,6-dichlorophenyl)carbonyl]-4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester was obtained a white solid: mp 170-173° C. ES-HRMS m/e calcd for C25H21Cl2F3N2O4 (M+Na) 563.0724 found 563.0730.

reactant | 4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester hydrochloride salt | 0.53 mmol, 216 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C(=CC1C)C(F)(F)F)C)=O)=O
reactant | 2,6-dichlorobenzoyl chloride | 0.57 mmol, 120 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | DIEA | 19 mmol, 210 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | ˜3 mL | C(C)(=O)OCC | C4H8O2
product | N-[(2,6-dichlorophenyl)carbonyl]-4-[1,4-dimethyl-6-(trifluoromethyl)-2-oxo-3-pyridinyl]-L-phenylalanine methyl ester | 270 mg, 93.5% yield | COC([C@@H](NC(=O)C1=C(C=CC=C1Cl)Cl)CC1=CC=C(C=C1)C=1C(N(C(=CC1C)C(F)(F)F)C)=O)=O | C25H21Cl2F3N2O4
